US04935426
Preparation of the starting compound N-(4-tert-butylphenyl)-piperazine
149 g (1 mole) of 4-tert-butylaniline, 178.5 g (1 mole) of bis-(2-chloroethylamine) hydrochloride and 138 g (1 mole) of potassium carbonate in 600 ml of diethylene glycol dimethyl ether are refluxed for 90 hours. The mixture is rendered strongly alkaline with 1 l of water and concentrated sodium hydroxide solution and stirred for 2 hours. The organic phase is extracted with 3×250 ml of methyl tert-butyl ether and the combined organic phases are washed with 2×250 ml of water, dried over sodium sulfate and evaporated down under reduced pressure. The residue is fractionated under reduced pressure to give 155 g (71% of theory) of a product of boiling point 114°-117° C./0.01 mbar and melting point 48°-52° C.

reactant | 4-tert-butylaniline | 1 mole, 149 g | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
reactant | bis-(2-chloroethylamine) hydrochloride | 1 mole, 178.5 g | Cl.ClCCN.ClCCN
reactant | potassium carbonate | 1 mole, 138 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | diethylene glycol dimethyl ether | 600 ml | COCCOCCOC | C6H14O3
solvent | water | 1 l | O | H2O
product | N-(4-tert-butylphenyl)-piperazine | C(C)(C)(C)C1=CC=C(C=C1)N1CCNCC1 | C14H22N2
